US08431597B2
(2R,4R)-tert-butyl 4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)-2-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-benzo[d]imidazol-2-yl)piperidine-1-carboxylate
To a solution of (2R,4R)-tert-butyl 2-(1H-benzo[d]imidazol-2-yl)-4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)piperidine-1-carboxylate (200 mg, 0.418 mmol) in DMF (2 mL) was added 2-(2-bromoethoxy)-tetrahydro-2H-pyran (114 mg, 0.543 mmol) and K2CO3 (116 mg, 0.836 mmol), and the reaction mixture was stirred at 80° C. for over night. Water and ethyl acetate were added to the mixture, organic layer was separated and dried over MgSO4 and concentrated. The residue was purified by HPLC with 0.1% HCOOH in water/0.1% HCOOH in ACN from 45-70% to give the named compound as white solid 90 mg (35%). LC-MS: 607.2 (t=2.9 min).

reactant | (2R,4R)-tert-butyl 2-(1H-benzo[d]imidazol-2-yl)-4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)piperidine-1-carboxylate | 0.418 mmol, 200 mg | N1C(=NC2=C1C=CC=C2)[C@@H]2N(CC[C@H](C2)NC(=O)C2=CC1=C(OCCO1)C=C2)C(=O)OC(C)(C)C | C26H30N4O5
reactant | 2-(2-bromoethoxy)-tetrahydro-2H-pyran | 0.543 mmol, 114 mg | BrCCOC1OCCCC1 | C7H13BrO2
reactant | K2CO3 | 0.836 mmol, 116 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,4R)-tert-butyl 4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)-2-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-benzo[d]imidazol-2-yl)piperidine-1-carboxylate | 90 mg, 35% | O1C2=C(OCC1)C=C(C=C2)C(=O)N[C@H]2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C2=NC1=C(N2CCOC2OCCCC2)C=CC=C1 | C33H42N4O7
